US08431575B2
A suspension of 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4,4-difluoro-piperidin-3-ylmethoxy)-pyridazine dichloride (0.17 mmol, 90 mg), 37% paraformaldehyde (0.4 mmol, 32 mg), and 1 drop of acetic acid in 5 mL of DCM was stirred for 5 min then added sodium triacetoxyborohydride (0.4 mmol, 85 mg) and continued stirring for 0.5 h at room temperature. Quenched with water, solvent was evaporated; the residue was diluted with ethyl acetate, and then washed with saturated NaHCO3 solution, brine. The organic layer was dried (Na2SO4), filtered and concentrated under reduced pressure. The resultant residue was purified by column chromatography using 5% methanolic solution of ammonia (2.0 M ammonia in methanol) in DCM to get 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4,4-difluoro-1-methyl-piperidin-3-ylmethoxy)-pyridazine (52 mg).

reactant | 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4,4-difluoro-piperidin-3-ylmethoxy)-pyridazine dichloride | 0.17 mmol, 90 mg | [Cl-].[Cl-].C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OCC1CNCCC1(F)F
reactant | paraformaldehyde | 0.4 mmol, 32 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.4 mmol, 85 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4,4-difluoro-1-methyl-piperidin-3-ylmethoxy)-pyridazine | 52 mg | C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OCC1CN(CCC1(F)F)C | C27H37F2N3O2
